US05569768
N-Benzyl-glutamic acid (35 g) was dissolved in 300 ml of water and refluxed for 15 hours. The solution was extracted with methylene chloride, washed with brine, dried over sodium sulfate and concentrated to yield 32 g of N-benzyl-5-oxo-proline. The acid (55.25 mmoles, 12.1 g) was dissolved in 15 ml of DMF and 30 ml acetonitrile. The solution was cooled to -25° C. Oxalyl chloride (5.0 ml) in 10 ml acetonitrile was added. The solution was stirred vigorously for 30 minutes. A solution of t-butanol (135 mmoles, 10.0 g) and pyridine (13.2g) in 10 ml acetonitrile was added over 30 minutes and then warmed to 0° C. Brine and ethyl acetate were added. The organic phase was diluted and washed with water, dried and concentrated to yield 10.7 g of N-benzyl-5-oxo-L-proline t-butyl ester. (MS)

reactant | N-Benzyl-glutamic acid | 35 g | C(C1=CC=CC=C1)N[C@@H](CCC(=O)O)C(=O)O | C12H15NO4
solvent | water | 300 ml | O | H2O
product | N-benzyl-5-oxo-proline | 32 g | C(C1=CC=CC=C1)N1[C@H](C(=O)O)CCC1=O | C12H13NO3
